US07384963B2
2′-Methyl-N-{4-[(methylamino)carbonyl]benzyl}5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide
2′-Methyl-N-4-[(methylamino)carbonyl]benzyl)5′-(5-methyl-1,3,4-oxadiazol-2-yl-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and N-methyl-(4-aminomethylbenzyl)amide using method H. NMR; δH [2H6]—DMSO 9.18,(1H, t), 8.38,(1H, q), 8.01,(2H, d), 7.89, (1H, dd), 7.78,(3H, m), 7.54,(3H, m), 7.40,(2H, d), 4.55,(2H, d), 2.76,(3H, d), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 2.88 min, MH+ 441.

reactant | 5-methyl-1,3,4-oxadiazol-2-yl-1,1′-biphenyl-4-carboxamide | CC1=NN=C(O1)C1=C(C=CC(=C1)C(=O)N)C1=CC=CC=C1 | C16H13N3O2
reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | N-methyl-(4-aminomethylbenzyl)amide | C[N-]CC1=CC=C(C=C1)CN
product | 2′-Methyl-N-{4-[(methylamino)carbonyl]benzyl}5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C(=O)NC | C26H24N4O3
